US05212320
A solution of ethyl 4-[3-[3,5-bis[tertbutoxycarbonylamino)benzoyl]indol-1-yl]butyrate (300 mg) in N,N-dimethylformamide (5 ml) was added to a suspension of sodium hydride (60% dispersion in mineral oil, 54 mg) in N,N-dimethylformamide (5 ml) at 0° C. The mixture was stirred at 0° C. for 30 minutes, and a solution of 4-isobutylbenzyl chloride (388 mg) in N,N-dimethylformamide (5 ml) was added at 0° C. The reaction mixture was stirred at 0° C. for 3 hours, and poured into a mixture of 0.1N hydrochloric acid and ethyl acetate. The organic layer was separated, washed with water, aqueous solution of sodium bicarbonate and brine in successively. After dryness over magnesium sulfate and evaporation of the solvent, the residue was chromatographed on silica gel (25 g) eluting with a mixture of ethyl acetate and hexane (1:4) to give ethyl 4-[3-[3,5-bis[N-(4-isobutylbenzyl)-N-tert-butoxycarbonyl- amino]benzoyl]indol-1-yl]butyrate (155 mg) as an oil.

reactant | ethyl 4-[3-[3,5-bis[tertbutoxycarbonylamino)benzoyl]indol-1-yl]butyrate | 300 mg | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C(C1)NC(=O)OC(C)(C)C | C31H39N3O7
reactant | sodium hydride | 54 mg | [H-].[Na+]
reactant | 4-isobutylbenzyl chloride | 388 mg | C(C(C)C)C1=CC=C(CCl)C=C1 | C11H15Cl
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-[3-[3,5-bis[N-(4-isobutylbenzyl)-N-tert-butoxycarbonyl- amino]benzoyl]indol-1-yl]butyrate | 155 mg | C(C(C)C)C1=CC=C(CN(C(=O)OC(C)(C)C)C=2C=C(C(=O)C3=CN(C4=CC=CC=C34)CCCC(=O)OCC)C=C(C2)N(CC2=CC=C(C=C2)CC(C)C)C(=O)OC(C)(C)C)C=C1 | C53H67N3O7
